US05523475
6-Fluoro-3-hydroxy-2-nitrobenzoic acid
6-Fluoro-3-hydroxybenzoic acid (100mg, 0.64 mmol) was dissolved in CH3NO2 (10 mL) and cooled to 0° C. HNO3 (90%, 31 μL, 0.64 mmol) was added and the reaction was left at 0° C. for 4 h and then at room temperature over night. Evaporation and purification by flash chromatography on SiO2 (Toluene-EtOAc-HOAc) gave the product (22 mg). 1H NMR (CD3OD): δ7.32 (t, J=9.0 Hz, 1H), 7.15 (dd, J1 =9.3 Hz, J2 =4.4 Hz, 1H); 13C NMR: δ164.97, 153.68 (d, J=247 Hz), 148.78, 122.67, 122.56, 122.45, 122.13.

reactant | 6-Fluoro-3-hydroxybenzoic acid | 0.64 mmol, 100mg | FC1=CC=C(C=C1C(=O)O)O | C7H5FO3
reactant | HNO3 | 0.64 mmol, 31 μL | [N+](=O)(O)[O-] | HNO3
solvent | CH3NO2 | 10 mL | C[N+](=O)[O-] | CH3NO2
product | 6-Fluoro-3-hydroxy-2-nitrobenzoic acid | 22 mg | FC1=CC=C(C(=C1C(=O)O)[N+](=O)[O-])O | C7H4FNO5
